US04413141
A one liter reaction flask is charged with ornithine ethyl ester dihydrochloride (93.29 g) and methylene chloride (200 ml). The suspension is stirred and cooled to 0° C. The reactor is then charged with a solution of benzaldehyde (86 g) in methylene chloride (200 ml). The temperature is maintained at 0° C., and a solution of triethylamine (90 g) in methylene chloride (140 ml) is added during one hour. The mixture is stirred overnight at room temperature. Water (150 ml) is added, and after decantation, the organic layer is washed with water (3×150 ml) and brine (2×100 ml). The organic layer is dried over sodium sulfate (50 g). After filtration, the solvent is evaporated under reduced pressure. The oily residue obtained is well stirred with hexane (600 ml) during one hour at room temperature. After filtration and drying under reduced pressure, dibenzylidine ornithine ethyl ester is obtained as a white solid, m.p. 41.4° C.; assay: 97.33%.

reactant | ornithine ethyl ester dihydrochloride | 93.29 g | Cl.Cl.C(C)OC([C@@H](N)CCCN)=O
reactant | benzaldehyde | 86 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 90 g | C(C)N(CC)CC | C6H15N
reactant | Water | 150 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 600 ml | CCCCCC | C6H14
product | ornithine ethyl ester | C(C)OC([C@@H](N)CCCN)=O | C7H16N2O2
